US04560691
was prepared following the procedure described in Example A-2 using 24.3 g of 3-(4-cyanophenyl)-1-methyl-3-oxo-1-propenamine, 12.5 ml of methyl propiolate and 100 ml of dimethylformamide. After a refluxing period of 24 hours, the reaction mixture was cooled whereupon the product precipitated, was collected, washed with ethanol and dried in a vacuum oven at 90° C. There was thus obtained 12.2 g of product, m.p. 267°-269° C., which was recrystallized from dimethylformamide using decolorizing charcoal, washed with ethanol and dried in a vacuum oven at 90° C. to yield 7.4 g of 5-(4-cyanobenzoyl)-6-methyl-2(1H)-pyridinone, m.p. 268°-270° C.

reactant | 3-(4-cyanophenyl)-1-methyl-3-oxo-1-propenamine | 24.3 g | C(#N)C1=CC=C(C=C1)C(C=C(N)C)=O | C11H10N2O
reactant | methyl propiolate | 12.5 ml | C(C#C)(=O)OC | C4H4O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(4-cyanobenzoyl)-6-methyl-2(1H)-pyridinone | 7.4 g | C(#N)C1=CC=C(C(=O)C=2C=CC(NC2C)=O)C=C1 | C14H10N2O2
